US07781443B2
A mixture of (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(2-cyanovinyl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (385 mg), sodium azide (99 mg), ammonium chloride (81 mg) and N,N-dimethylformamide (5 ml) is stirred at 100°C. overnight. The mixture is partitioned by adding ethyl acetate and a saturated brine. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; chloroform to chloroform:methanol=5:1) to give (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-{5-[2-(tetrazole-5-yl)vinyl]pyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (155 mg). MS (m/z): 678 [M+H]+

reactant | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(2-cyanovinyl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 385 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=CC#N)CC | C30H28F6N6O3
reactant | sodium azide | 99 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 81 mg | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-{5-[2-(tetrazole-5-yl)vinyl]pyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 155 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=CC1=NN=NN1)CC | C30H29F6N9O3
